US04414420
A. Preparation of allyl 2-methylbut-2-yl ether
100 gms 2-methylbut-2-ene, 300 gms allyl alcohol and 10 gms Amberlyst 15 resin were charged to a 1-liter flat-bottomed flask containing a magnetic follower and fitted with a stopper incorporating a gas inlet tube dipping below the surface of the liquid in the flask and with an exit tube leading from the gas space to a Drechsel bottle filled with water. The flask was purged with nitrogen and then placed in a water bath at 30° C. on a magnetic stirrer. The contents of the flask were maintained at this temperature for 16 hours and then filtered. After washing 5 times with deionised water, each time at an approximately 1:1 ratio by volume, in order to remove the bulk of the unreacted allyl alcohol, the resulting organic layer was dried over anhydrous sodium carbonate and the ether was purified by distillation. The yield was 137 gms (74.9% based on the olefin), b.p. 125°-127° C. at 770 mm Hg.

reactant | 2-methylbut-2-ene | 100 gms | CC(C)=CC | C5H10
reactant | allyl alcohol | 300 gms | C(C=C)O | C3H6O
solvent | water | O | H2O
product | allyl 2-methylbut-2-yl ether | CC(C)(CC)OCC=C | C8H16O
